US07557114B2
(e) 5-(2,2,2-Trifluoro-ethyl)-2,3-dihydro-1H-isoindole hydrochloride
Prepared in analogy to Example A3(e) from 5-(2,2,2-trifluoro-ethyl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl Ester and hydrochloric acid. Off-white solid. MS (m/e): 202.4 ([M+H]+, 100%).

reactant | 5-(2,2,2-trifluoro-ethyl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl Ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)CC(F)(F)F | C15H18F3NO2
reactant | hydrochloric acid | Cl | ClH
product | 5-(2,2,2-Trifluoro-ethyl)-2,3-dihydro-1H-isoindole hydrochloride | Cl.FC(CC=1C=C2CNCC2=CC1)(F)F | InChI=1S/C10H10F3N.ClH/c11-10(12,13)4-7-1-2-8-5-14-6-9(8)3-7;/h1-3,14H,4-6H2;1H
